US04101667
The mixture of 3.4g of 9-chloro-2-fluoro-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin, 2.1g of copper cyanide, 0.2g of anhydrous copper sulfate and 50ml of N-methyl pyrrolidone was heated at 200°-210° C overnight. After cooling, to the reaction mixture were added 10ml of conc. aqueous ammonia and 100ml of water and the resulting mixture was extracted with benzene. The benzene layer thus obtained was washed with water, dried over anhydrous sodium sulfate and the solvent was distilled off. The resulting residue was chromatographed over silica gel, and eluted with chloroform and benzene. There was obtained from benzene eluate 0.3g of 9-cyano-2-fluoro-10,11-dihydro-11 -oxo-dibenzo[b,f]thiepin as yellow needles having a melting point of 174°-175° C.

reactant | 9-chloro-2-fluoro-10,11-dihydro-11-oxo-dibenzo[b,f]thiepin | 3.4g | ClC1=CC=CC2=C1CC(C1=C(S2)C=CC(=C1)F)=O | C14H8ClFOS
reactant | copper cyanide | 2.1g | [Cu](C#N)C#N
reactant | N-methyl pyrrolidone | 50ml | CN1C(CCC1)=O | C5H9NO
reactant | ammonia | 10ml | N | H3N
catalyst | copper sulfate | 0.2g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 100ml | O | H2O
product | 9-cyano-2-fluoro-10,11-dihydro-11 -oxo-dibenzo[b,f]thiepin | C(#N)C1=CC=CC2=C1CC(C1=C(S2)C=CC(=C1)F)=O | C15H8FNOS
